US06372759B1
B) 1-Boc-6-aminoindazole
To a stirring solution of 1-Boc-6-nitroindazole (2.5 g, 9.5 mmol) in ethyl acetate (75 mL) under nitrogen was added 10% Pd/C (500 mg). The mixture was placed under vacuum and the atmosphere was replaced with hydrogen (1 atm). After stirring for 12 h, the hydrogen balloon was removed and diatomaceous earth was added. The mixture was then filtered over a pad of diatomaceous earth and the solvent was removed by rotary evaporation to give 2.17 g (98%) of light pink solid.

reactant | 1-Boc-6-nitroindazole | 9.5 mmol, 2.5 g | C(=O)(OC(C)(C)C)N1N=CC2=CC=C(C=C12)[N+](=O)[O-] | C12H13N3O4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | 1-Boc-6-aminoindazole | C(=O)(OC(C)(C)C)N1N=CC2=CC=C(C=C12)N | C12H15N3O2
